US06930120B2
(2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid benzyl ester
Phosphorous oxychloride (22 mL, 0.235 moles, 3.0 eq) was added dropwise to a solution of 3-(cyclohexanecarbonyl-amino)-4-oxo-pentanoic acid benzyl ester (26.0 g, 0.078 moles) in DMF (330 mL). The mixture was heated to 90° C. for 30 min, and then cooled to ambient temperature before diluting by slowly adding DI water (600 mL, Caution, exothermic). The mixture was cooled to ambient temperature and extracted with MTBE (3×150 mL). The combined organic phases were washed with DI water, brine (150 mL), dried over MgSO4 and concentrated to obtain 21.1 g as a brown oil. Further purification was not necessary.

reactant | Phosphorous oxychloride | 0.235 moles, 22 mL, 3.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(cyclohexanecarbonyl-amino)-4-oxo-pentanoic acid benzyl ester | 0.078 moles, 26.0 g | C(C1=CC=CC=C1)OC(CC(C(C)=O)NC(=O)C1CCCCC1)=O | C19H25NO4
reactant | DI water | 600 mL | O | H2O
solvent | DMF | 330 mL | CN(C)C=O | C3H7NO
product | (2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC=1N=C(OC1C)C1CCCCC1)=O | C19H23NO3
